US06090950
Ethyl 4-oxocyclohexanecarboxylate (Aldrich Chemical Co., Milwaukee, Wis.) is reduced with excess lithium aluminum hydride in tetrahydrofuran to provide 4-(hydroxymethyl)cylohexan-1-ol.

reactant | Ethyl 4-oxocyclohexanecarboxylate | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(hydroxymethyl)cylohexan-1-ol | OCC1CCC(CC1)O | C7H14O2
